US04256598
Tri sulfo pyrido porphine, tri ammonium salt;
tri sulfo pyrido porphine calcium, tri ammonium salt; tri sulfo pyrido porphine, tri sodium salt; meso-disulfopyrryl-meso-disulfo phenyl porphine, tetra sodium salt; meso-disulfopyrryl-meso-disulfo phenyl porphine zinc, tetra sodium salt; meso-disulfopyrryl-meso-disulfo phenyl porphine, tetra sodium salt; 1, 2, 3, 4, 5, 6, 7, 8-octamethyl-meso-disulfopyrrylmeso-disulfo phenyl porphine, tetra ammonium salt; 1, 2, 3, 4, 5, 6, 7, 8-octa n-propyl-meso-disulfopyrryl-meso-disulfo phenyl porphine zinc, tetra sodium salt; disulfobenzo-meso-tetrasulfophenyl porphine, hexa sodium salt; disulfobenzomeso-tetra(sulfo-4-pyridyl) porphine zinc, hexa sodium salt.

reactant | tri sulfo pyrido porphine calcium | [Ca].S(=O)(=O)(O)C=1C2=C(C(=C(N2)C=C2C3=C(C(C=C4C=CC(=CC=5C=CC1N5)N4)=N2)N=CC=C3)S(=O)(=O)O)S(=O)(=O)O
reactant | tri sulfo pyrido porphine | S(=O)(=O)(O)C=1C2=C(C(=C(N2)C=C2C3=C(C(C=C4C=CC(=CC=5C=CC1N5)N4)=N2)N=CC=C3)S(=O)(=O)O)S(=O)(=O)O | C23H15N5O9S3
reactant | tri sodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | tetra sodium | C1C=CN(C=C1C(=O)N)C2C(C(C(O2)COP(=O)([O-])OP(=O)([O-])OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)OP(=O)([O-])[O-])O)O)O.[Na+].[Na+].[Na+].[Na+]
product | Tri sulfo pyrido porphine, tri ammonium salt | [NH4+].[NH4+].[NH4+].S(=O)(=O)(O)C=1C2=C(C(=C(N2)C=C2C3=C(C(C=C4C=CC(=CC=5C=CC1N5)N4)=N2)N=CC=C3)S(=O)(=O)O)S(=O)(=O)O | InChI=1S/C23H15N5O9S3.3H3N/c29-38(30,31)21-15-6-5-12(26-15)8-11-3-4-13(25-11)9-17-19-14(2-1-7-24-19)16(27-17)10-18-22(39(32,33)34)23(20(21)28-18)40(35,36)37;;;/h1-10,25,28H,(H,29,30,31)(H,32,33,34)(H,35,36,37);3*1H3/p+3
